US07947738B2
(7-c) Tert-butyl(±)-(1S,5R)-3-methylbicyclo[3.2.0]hept-3-en-6-ylideneacetate
4-Methyl-3-hydroxyhept-6-enoic acid (2.21 g, 13.9 mmol) was dissolved in acetic anhydride (14 mL). To the solution, potassium acetate (3.29 g, 33.4 mmol) was added, and the mixture was stirred at room temperature for 2 hours. The reaction solution was heated to 110 to 120° C. and stirred for 3.5 hours. To the reaction solution, ice water and toluene were then added, and this mixture was stirred at room temperature for 1 hour. The mixture was separated into aqueous and organic layers by the addition of saturated saline and toluene. Then, the organic layer was washed with a 1 N aqueous sodium hydroxide solution and saturated saline in this order, then dried over anhydrous magnesium sulfate, and then filtered. This filtrate was added to a reaction solution prepared by adding sodium hydride (>63% oil, 533.3 mg, 14.0 mmol) to a tetrahydrofuran solution (20 mL) of tert-butyl dimethoxyphosphorylacetate (3.24 g, 14.5 mmol) under ice cooling, and the mixture was further stirred for 1.5 hours. The reaction solution was separated into aqueous and organic layers by the addition of a saturated aqueous solution of ammonium chloride and saturated saline. The aqueous layer was subjected to extraction with ethyl acetate. These organic layers were combined, then washed with saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a pale yellow oil substance (1.21 g, 40%, E/Z mixture).

reactant | 4-Methyl-3-hydroxyhept-6-enoic acid | 13.9 mmol, 2.21 g | CC(C(CC(=O)O)O)CC=C | C8H14O3
reactant | potassium acetate | 33.4 mmol, 3.29 g | C(C)(=O)[O-].[K+]
reactant | sodium hydride | 14.0 mmol, 533.3 mg | [H-].[Na+]
reactant | tert-butyl dimethoxyphosphorylacetate | 14.5 mmol, 3.24 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
solvent | acetic anhydride | 14 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl(±)-(1S,5R)-3-methylbicyclo[3.2.0]hept-3-en-6-ylideneacetate | CC=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C14H20O2
